US05849911
17c) 1-[4-(Thiazol-2-yl)-phenyl]-4(S)-hydroxy-2-(tert-butoxycarbonyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane
Under a nitrogen atmosphere, 1.4 g (8.0 mmol) of N-methoxycarbonyl-(L)-valine, 2.87 g (15 mmol) of EDC and 1.35 g (10 mmol) of HOBT are dissolved in 22 ml of DMF. After 45 min, 4.2 ml (30 mmol) of TEA are added and then a solution of 2.34 g (5.0 mmol) of 1-[4-(thiazol-2-yl)-phenyl]-4(S)-hydroxy-2-(tert-butoxycarbonyl)amino-5(S)-amino-6-phenyl-2-azahexane in 45 ml of DMF is added dropwise. After 1.5 hours, the reaction mixture is concentrated by evaporation; the residue is taken up in methylene chloride and washed with water, sat. NaHCO3 solution, water and brine. The aqueous phases are extracted 2× with methylene chloride; the combined organic phases are dried (Na2 SO4) and concentrated by evaporation. Column chromatography (SiO2 ; methylene chloride/ethyl acetate 2:1) and crystallisation from ethyl acetate/ether yield the title compound: m.p: 178°-179° C.; HPLC20-100 : tRet =15.8.

reactant | N-methoxycarbonyl-(L)-valine | 8.0 mmol, 1.4 g | COC(=O)N[C@@H](C(C)C)C(=O)O | C7H13NO4
reactant | EDC | 15 mmol, 2.87 g
reactant | HOBT | 10 mmol, 1.35 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-[4-(thiazol-2-yl)-phenyl]-4(S)-hydroxy-2-(tert-butoxycarbonyl)amino-5(S)-amino-6-phenyl-2-azahexane | 5.0 mmol, 2.34 g | S1C(=NC=C1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)N)O)NC(=O)OC(C)(C)C | C25H32N4O3S
solvent | DMF | 22 ml | CN(C)C=O | C3H7NO
solvent | DMF | 45 ml | CN(C)C=O | C3H7NO
product | 1-[4-(Thiazol-2-yl)-phenyl]-4(S)-hydroxy-2-(tert-butoxycarbonyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane | S1C(=NC=C1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)C(C)C)=O)O)NC(=O)OC(C)(C)C | C32H43N5O6S
